US07504403B2
1-{6-[2-(2-Chloro-phenyl)-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one.
Followed the same procedure described for the synthesis of 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro -pyrido[1,2-a]pyrimidin-6-one, 1-(6-chloro-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro -pyrido[1,2-a]pyrimidin-6-one (0.136 g, 0.40 mmol) was reacted with 2-(2-chlorophenyl)ethylamine (0.17 mL, 1.2 mmol) to give the title compound as a yellow solid. MS m/e 458 (M+H)+.

reactant | 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro -pyrido[1,2-a]pyrimidin-6-one | C(CC1=CC=CC=C1)NC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H25N5O
reactant | 1-(6-chloro-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro -pyrido[1,2-a]pyrimidin-6-one | 0.40 mmol, 0.136 g | ClC1=CC(=NC=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C18H15ClN4O
reactant | 2-(2-chlorophenyl)ethylamine | 1.2 mmol, 0.17 mL | ClC1=C(C=CC=C1)CCN | C8H10ClN
product | 1-{6-[2-(2-Chloro-phenyl)-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | ClC1=C(C=CC=C1)CCNC1=CC(=NC=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H24ClN5O
